US09062027B2
3.1 N-[3-Hydroxy-4-(methoxyamino)-4-oxo-1-phenylbutan-2-yl]-2-(2H-indazol-2-yl)nicotinamide
1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (663 mg, 3.46 mmol) and Et3N (0.900 ml, 6.46 mmol) were successively added to a solution of 3-[2-(2H-indazol-2-yl)nicotinamido]-2-hydroxy-4-phenylbutanoic acid (1200 mg, 2.88 mmol) and O-methylhydroxylamine hydrochloride (0.350 ml, 4.61 mmol) in DMF (35 ml) at 5° C., and the mixture was stirred for 5 minutes. A pH of 10 was adjusted by adding Et3N (0.643 ml, 4.61 mmol), stirring was continued for 1 hour at 5° C. and then overnight at room temperature. The reaction mixture was then concentrated under reduced pressure. To the obtained residue were added water (150 ml) and a saturated aqueous solution of NaHCO3 (20 ml) with stirring. Following stirring for about 20 minutes the precipitate formed was filtered off with suction and treated with methyl-tert.-butylether (40 ml) to give, after filtration and drying in vacuo, 1.07 g of the title compound as an off-white solid.

reactant | 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 3.46 mmol, 663 mg | Cl.CN(CCCN=C=NCC)C
reactant | Et3N | 6.46 mmol, 0.900 ml | CCN(CC)CC | C6H15N
reactant | 3-[2-(2H-indazol-2-yl)nicotinamido]-2-hydroxy-4-phenylbutanoic acid | 2.88 mmol, 1200 mg | N=1N(C=C2C=CC=CC12)C1=C(C(=O)NC(C(C(=O)O)O)CC2=CC=CC=C2)C=CC=N1 | C23H20N4O4
reactant | O-methylhydroxylamine hydrochloride | 4.61 mmol, 0.350 ml | Cl.CON
reactant | Et3N | 4.61 mmol, 0.643 ml | CCN(CC)CC | C6H15N
solvent | DMF | 35 ml | CN(C)C=O | C3H7NO
product | N-[3-Hydroxy-4-(methoxyamino)-4-oxo-1-phenylbutan-2-yl]-2-(2H-indazol-2-yl)nicotinamide | OC(C(CC1=CC=CC=C1)NC(C1=C(N=CC=C1)N1N=C2C=CC=CC2=C1)=O)C(=O)NOC | C24H23N5O4
